US07772234B2
Step C: Preparation of 7-(4-bromo-2-fluorophenylamino)-8-fluoro-4-methyl-quinoline-6-carboxylic acid methyl ester:
A mixture of 2-(4-bromo-2-fluorophenylamino)-3-fluoro-4-formylamino-5-(1-hydroxy-1-methyl-ethyl)-benzoic acid methyl ester (1.00 equiv.) and polyphosphoric acid is stirred at 160° C. for 20 hours. The reaction mixture is cooled to room temperature and diluted with EtOAc. The organic layer is washed with water and brine, dried over MgSO4, filtered, and concentrated under reduced pressure to give the crude material that is purified by trituration or flash column chromatography to yield the desired product as necessary.

reactant | 2-(4-bromo-2-fluorophenylamino)-3-fluoro-4-formylamino-5-(1-hydroxy-1-methyl-ethyl)-benzoic acid methyl ester | 1.00 equiv. | COC(C1=C(C(=C(C(=C1)C(C)(C)O)NC=O)F)NC1=C(C=C(C=C1)Br)F)=O | C18H17BrF2N2O4
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 7-(4-bromo-2-fluorophenylamino)-8-fluoro-4-methyl-quinoline-6-carboxylic acid methyl ester | COC(=O)C=1C=C2C(=CC=NC2=C(C1NC1=C(C=C(C=C1)Br)F)F)C | C18H13BrF2N2O2
